US06242601B1
0.1 g of 4-[4-(5-isopropenyl-pyridine-2-sulfonylamino)-6-methoxy-5-(2-methoxy-phenoxy)-pyrimidin-2-yl]-pyridine-2-carboximidic acid methyl ester sodium salt, product of example 66 b), in MeOH (10 ml) were treated at RT with 1.8 ml 1N NaOH and the solution was stirred for 26 h at RT. After this time further 1.8 ml 1N NaOH were added and stirring was continued for further 20 h until the reaction was complete according to HPLC analysis. The solution was concentrated then poured into diluted aqueous HCl, the product was extracted into AcOEt. The organic layer was washed with water, dried over Na2SO4 and concentrated in vacuo. The crystalline precipitate that had formed was collected under suction and washed with ether to give 4-[4-(5-isopropenyl-pyridine-2-sulfonylamino)-6-methoxy-5-(2-methoxy-phenoxy)-pyrimidin-2-yl]-pyridine-2-carboxylic acid as light yellow crystals. ISN mass spectrum, m/e 548 (M−1 calculated for C26H23N5O7S: 548).

reactant | 4-[4-(5-isopropenyl-pyridine-2-sulfonylamino)-6-methoxy-5-(2-methoxy-phenoxy)-pyrimidin-2-yl]-pyridine-2-carboximidic acid methyl ester sodium salt | 0.1 g | [Na].COC(=N)C1=NC=CC(=C1)C1=NC(=C(C(=N1)NS(=O)(=O)C1=NC=C(C=C1)C(=C)C)OC1=C(C=CC=C1)OC)OC
reactant | NaOH | 1N, 1.8 ml | [OH-].[Na+]
reactant | NaOH | 1N, 1.8 ml | [OH-].[Na+]
solvent | MeOH | 10 ml | CO | CH4O
product | 4-[4-(5-isopropenyl-pyridine-2-sulfonylamino)-6-methoxy-5-(2-methoxy-phenoxy)-pyrimidin-2-yl]-pyridine-2-carboxylic acid | C(=C)(C)C=1C=CC(=NC1)S(=O)(=O)NC1=NC(=NC(=C1OC1=C(C=CC=C1)OC)OC)C1=CC(=NC=C1)C(=O)O | C26H23N5O7S
